US09193693B2
Step 2. 3-(4-(3-Chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
To a solution of methyl 3-(4-(3-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate (143.5 mg, 0.29 mmol, 1.00 equiv, 91%) in methanol (15 mL) was added a solution of sodium hydroxide (62.8 mg, 1.57 mmol, 5.00 equiv) in water (2 mL) dropwise with stiffing. The resulting solution was stirred overnight at 50° C. in an oil bath, then concentrated under vacuum. The resulting solids were washed with methanol yielding 44 mg (34%) of 3-(4-(3-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-(3-chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 143.5 mg, 1.00 equiv | ClC=1C=C(C=CC1)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C27H24ClN3O2
reactant | sodium hydroxide | 1.57 mmol, 62.8 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(4-(3-Chlorophenyl)piperidin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | ClC=1C=C(C=CC1)C1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C26H22ClN3O2
